Test of diode with basic sidewall parameters
VIN 1 0 1
VMON 1 2 0
D1 2 0 DMOD PJ=0.5
.MODEL DMOD D (IS=1e-15 CJO=1e-15 RS=1 JSW=1e-15 CJSW=1e-15)
.DC VIN -2 1 .05

.PRINT DC V(1) I(VMON) N(D1:Cd)
.END
